US04983616
1,2,3,3a,8,8a-Hexahydro-5-nitro-1,3a,8-trimethylpyrrolo[2,3-b]indole (1.0 g) was dissolved in ethyl acetate (100 ml) and hydrogenated in a Parr apparatus at 45 psi using PtO2 (100 mg) as a catalyst. The reduction was complete within 2 hours. The reduction mixture was filtered directly into a nitrogen flushed flask. 4-Dimethylaminopyridine (50 mg) was added, the mixture was cooled to 0° C. and a solution of dimethylpyrocarbonate (0.54 g) in ethyl acetate (50 ml) was added over a period of 1 hour. The mixture was concentrated and purified by flash chromatography on silica gel (eluting with 15% MeOH/EtOAc). The pure fractions were concentrated to give 1,2,3,3a,8,8a-hexahydro-5-(methyloxycarbonylamino)-1,3a,8-trimethylpyrrolo[2,3-b]indole (0.4 g) and the oxalate salt was prepared by dissolving the free base in ether and a minimal amount of methanol and adding a solution of oxalic acid in ether.

reactant | 1,2,3,3a,8,8a-Hexahydro-5-nitro-1,3a,8-trimethylpyrrolo[2,3-b]indole | 1.0 g | [N+](=O)([O-])C=1C=C2C3(C(N(C2=CC1)C)N(CC3)C)C | C13H17N3O2
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | PtO2 | 100 mg | O=[Pt]=O
product | 1,2,3,3a,8,8a-hexahydro-5-(methyloxycarbonylamino)-1,3a,8-trimethylpyrrolo[2,3-b]indole | 0.4 g | COC(=O)NC=1C=C2C3(C(N(C2=CC1)C)N(CC3)C)C | C15H21N3O2
